2125-11-14 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2125-11-13**] 05:30 PM
 CHEST TUBE PLACED - At [**2125-11-13**] 05:51 PM
 ARTERIAL LINE - START [**2125-11-13**] 06:20 PM
 PICC LINE - START [**2125-11-13**] 06:21 PM
 MULTI LUMEN - START [**2125-11-13**] 08:38 PM
 BLOOD CULTURED - At [**2125-11-13**] 09:15 PM
   blood cultures x2 from Aline and PICC
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-11**] 09:26 AM
   Metronidazole - [**2125-11-14**] 04:15 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Vecuronium - [**2125-11-13**] 05:35 PM
   Heparin Sodium (Prophylaxis) - [**2125-11-13**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-14**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 88 (70 - 112) bpm
   BP: 99/56(72) {99/56(72) - 153/77(103)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,341 mL
                                                                    292 mL
   PO:
             TF:
   IVF:
                                                                  3,341 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  1,706 mL
                                                                    967 mL
   Urine:
                                                                    456 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,635 mL
                                                                   -675 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/50/162/29/4
   Ve: 6.2 L/min
   PaO2 / FiO2: 324
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   9.3 g/dL
   154 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   108 mEq/L
   143 mEq/L
   30.9 %
   11.9 K/uL
        [image002.jpg]
                            [**2125-11-11**]  02:54 AM
                            [**2125-11-11**]  04:45 PM
                            [**2125-11-13**]  04:43 PM
                            [**2125-11-13**]  05:56 PM
                            [**2125-11-13**]  10:25 PM
                            [**2125-11-14**]  01:27 AM
                            [**2125-11-14**]  04:58 AM
                            [**2125-11-14**]  05:07 AM
   WBC
   6.7
   8.1
   11.9
   Hct
   26.9
   25.8
   27.0
   30.9
   Plt
   244
   233
   239
   Cr
   1.3
   1.3
   1.1
   1.1
   TCO2
   32
   30
   31
   Glucose
   112
   228
   160
   154
   Other labs: PT / PTT / INR:17.6/38.3/1.6, Fibrinogen:236 mg/dL, Lactic
   Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   ASSESSMENT AND PLAN:
   75 yo F w hx of Afib HTN, DM2 s/p recent hospitalization for
   osteomyelitis now presenting w/ acute unresponsiveness and apnea as
   well as acute hydrothorax s/p chest compressions.
   .
   #. Altered Mental Status:
   Given that pt. has been having multiple episodes of acute altered
   mental status and nonresponsiveness most likely represents seizures.
   Pt. is on trifluoperazine and amytriptiline which can lower the seizure
   threshold and may have accumulated after recent step down in her renal
   function and worsening of her likely NAFLD.
   - Lactulose
   - Appreciate neurology recs
   -  get continuous EEG
   - Hold psychotropic meds
   .
   #. Osteomyelitis:
   Patient has history of phlegmon in lower spine, being treated with Vanc
   and Flagyl since previous hospitalization, long term course. Ortho
   Spine aware of patient.
   -F/u ESR/CRP
   -F/u spine recs
   - continue vanc/flagyl
   .
   #Hydrothorax: Most likely [**12-25**] small rupture of diaphragm causing
   leakage of ascites into chest cavity. If pt. continues to produce large
   amounts of ascites will need to diurese before chest tube comes out.
   Does not appear to be blood comming from chest tube and Hct stable.
   - Chest tube to suction
   - CXR in am.
   #. Hypotension:
   Pts. hypotension appears to be positional, only occurs when pt. is
   rolled onto her L side, most likely that ascites fluid is accumulating
   in the chest cavity during rolls and shifting her mediastinum/causing
   venous kinkage.
   - chest tube
   .
   #. CHF:  extremely fluid overloaded.
   - continue diuresis when HD stable
   .
   #. Renal failure: At recent baseline
   - trend Cr
   - Renally dose meds
   - avoid nephrotoxins
   .
   #. Cirrhosis: Low MELD. Stable, noted on CT.  Could be cause of AMS
   - Lactulose
   - diuresis when stable
   .
   #. DM:
   - continue insulin sliding scale
   .
   .
   #. Access:
   - PIV
   - PICC needs to be pulled back
   - central line
   .
   #. PPx:
   - Pneumoboots given ? bleeding
   #. Code: FULL CODE
   #. Communication: patient not reliable. family.
   [**First Name8 (NamePattern2) 5880**] [**Last Name (NamePattern1) 2355**] (Daughter: [**Telephone/Fax (1) 10400**])
   [**Name (NI) **] [**Name (NI) **] (son): [**Telephone/Fax (1) 10401**].

2125-11-14 08:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75F with NASH/cirrhosis, recent finding of reduced EF on [** **], vertebral
   osteomyelitis; admitted following possible seizure activity and
   respiratory distress prompting intubation.
   24 Hour Events:
   Admitted to ICU yesterday, intermittently requiring vasopressors.
   Chest tube output continued to be brisk at 100-200ml/hour.
   ScvO2 70-75%.
   Lactate normalized.
   CVP not transduced.
   25% SPA for constant chest tube output.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-11**] 09:26 AM
   Metronidazole - [**2125-11-14**] 04:15 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Vecuronium - [**2125-11-13**] 05:35 PM
   Heparin Sodium (Prophylaxis) - [**2125-11-13**] 08:45 PM
   Other medications:
   Thiamine
   ASA
   Protonix
   Insulin sliding scale
   Simvastatin
   Lidocaine patch
   Chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-14**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 88 (70 - 112) bpm
   BP: 99/56(72) {99/56(72) - 153/77(103)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,341 mL
                                                                    308 mL
   PO:
             TF:
   IVF:
                                                                  3,341 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  1,706 mL
                                                                    967 mL
   Urine:
                                                                    456 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,635 mL
                                                                   -659 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/50/162/29/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 324
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   239 K/uL
   154 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   108 mEq/L
   143 mEq/L
   30.9 %
   11.9 K/uL
        [image002.jpg]
                            [**2125-11-11**]  02:54 AM
                            [**2125-11-11**]  04:45 PM
                            [**2125-11-13**]  04:43 PM
                            [**2125-11-13**]  05:56 PM
                            [**2125-11-13**]  10:25 PM
                            [**2125-11-14**]  01:27 AM
                            [**2125-11-14**]  04:58 AM
                            [**2125-11-14**]  05:07 AM
   WBC
   6.7
   8.1
   11.9
   Hct
   26.9
   25.8
   27.0
   30.9
   Plt
   244
   233
   239
   Cr
   1.3
   1.3
   1.1
   1.1
   TCO2
   32
   30
   31
   Glucose
   112
   228
   160
   154
   Other labs: PT / PTT / INR:17.6/38.3/1.6, Fibrinogen:236 mg/dL, Lactic
   Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: UA: pending
   Imaging: CXR: tubes/lines in place. Cleared right-sided effusion.
   Microbiology: Blood cultures: pending
   Urine culture: pending
   Sputum culture: pending
   Assessment and Plan
   75yoF with multiple recent admissions; returns to ICU in setting of
   seizure-like activity and subsequent respiratory failure.
   1.       Respiratory failure:  Intubated in setting of respiratory
   distress possibly post-seizure activity.  Suspect etiology was
   accumulation of pleural effusion
   - Awaken, once off sedation will SBT and plan to extubated if passes.
   - No evidence of PNA
   - continue chest tube to suction
   2.       Hypotension: Intermittent low-dose pressor requirement without
   clear etiology.  CVP 4, suspect hypovolemia
   -  [**Year (4 digits) **], EKG, cardiac markers to assess cardiac etiology.
   - Albumin given CVP 4
   3.       Neuro:  Suspect intermittent seizure activity
   - discuss with neuro role for dilantin
   - continuous EEG
   4.       Pleural effusion:  transudate
 suspect hepatic hydrothorax
   versus CHF
   - Continue chest tube for time being, will need to diurese when stable.
   5.       Cardiology:
   - new wall motion abnormalities on [**Last Name (LF) **], [**First Name3 (LF) 124**] consult cardiology and
   repeat [**First Name3 (LF) **].
   - EKG, markers.
   6.       Cirrhosis:
   - will need to start aldactone/lasix when hemodynamics improved
   - lactulose
   - Liver service to see
   7.       ID:  h/o cdiff; osteo
   - continue vancomycin to complete course outlined by ID
   - continue flagyl in setting of recent cdiff infection
   - f/u cultures
   ICU Care
   Nutrition:
   Comments: Holding tube feeds to assess extubation potential
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2125-11-13**] 06:20 PM
   PICC Line - [**2125-11-13**] 06:21 PM
   Multi Lumen - [**2125-11-13**] 08:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: ICU consent signed Comments: Update family today
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Overnight, hct stable, significant chest tube drainage but yellow
   colored, and remains on very small dose of phenylephrine.  Is waking up
   currently and responsive
   T 36.9  P 88  BP 99/56  RR 12  96%
   Intubated, awake
   CTA bilaterally
   S1 S2 reg
   Abd: soft NT ND, obese
   Ext: bilateral edema
   Chest tube: no air leak, draining about 100-200/hour
   Assessment:
   1)       Acute Respiratory Failure
   2)       Hypotension
   3)       Mental Status Change
   4)       Cirrhosis
   5)       Pleural Effusion s/p chest tube placement
   Discussion: See note from yesterday for full discussion.  In short, I
   suspect patient had a seizure leading to need for intubation and the
   chest compressions may have caused damage leading to sudden filling of
   left chest with fluid.  Currently improving and is ready for
   extubation.
   Plan:
   1)       Extubation
   2)       Keep CT to suction
   3)       Re-evaluate BP after extubation
   Addendum: Patient extubated and looking fine.  She came off
   vasopressors almost immediately after extubation thus may be related to
   positive pressure/sedation.  We will continue to watch closely and
   further evaluation if recurs.  Currently, all cultures are negative, no
   signs of infection, ECHO without any pericardial fluid and EF improved
   from previous.
   Time Spent: 45 minutes
   Patient is Critically Ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2125-11-14**] 08:03 PM ------

2125-11-16 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Hct drop from 31 to 24, no clear source of bleeding.  Hemolysis labs
   negative. Guaic negative. Responded well to 2units of PRBC.
   -- Able to ween off pressors
   -- Wanted to image chest and look for RP bleed, but could not tolerate
   lying flat.
   -- Very anxious, started haldol
   -- neur said could order kepra 500mg [**Hospital1 **] for sz ppx.  Held off on
   ordering in case gets 24hr eeg sat.
   -- Continued tachycardia, not breaking with sinus maneuvers. Appears to
   be sinus on rhythm strip with vagal maneuvers
   -- dig loaded, has remained with tachycardia
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-11-14**] 06:28 PM
   Vancomycin - [**2125-11-15**] 08:14 AM
   Cefipime - [**2125-11-15**] 03:49 PM
   Metronidazole - [**2125-11-15**] 09:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-11-15**] 08:00 AM
   Haloperidol (Haldol) - [**2125-11-15**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-16**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 120 (108 - 143) bpm
   BP: 121/70(80) {100/53(65) - 142/78(90)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 14 (5 - 20)mmHg
   Total In:
                                                                  4,170 mL
                                                                    366 mL
   PO:
                                                                    760 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,343 mL
                                                                    126 mL
   Blood products:
                                                                  1,067 mL
   Total out:
                                                                  4,038 mL
                                                                  1,650 mL
   Urine:
                                                                    398 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                 -1,284 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   9.5 g/dL
   115 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.1 mEq/L
   11 mg/dL
   108 mEq/L
   144 mEq/L
   29.6 %
   6.6 K/uL
        [image002.jpg]
                            [**2125-11-14**]  01:27 AM
                            [**2125-11-14**]  04:58 AM
                            [**2125-11-14**]  05:07 AM
                            [**2125-11-14**]  02:57 PM
                            [**2125-11-15**]  03:23 AM
                            [**2125-11-15**]  08:00 AM
                            [**2125-11-15**]  09:48 AM
                            [**2125-11-15**]  04:40 PM
                            [**2125-11-15**]  10:01 PM
                            [**2125-11-16**]  03:37 AM
   WBC
   11.9
   7.7
   8.6
   6.6
   Hct
   30.9
   24.2
   23.0
   24.4
   29.9
   28.6
   29.6
   Plt
   [**Telephone/Fax (3) 10681**]13
   Cr
   1.1
   1.0
   1.1
   1.0
   TropT
   0.05
   0.05
   TCO2
   30
   31
   Glucose
   154
   123
   157
   115
   Other labs: PT / PTT / INR:18.2/36.7/1.6, CK / CKMB /
   Troponin-T:32/2/0.05, ALT / AST:[**8-8**], Alk Phos / T Bili:91/1.1,
   Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:6.5 %, Eos:0.6 %,
   Fibrinogen:262 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:4.5 g/dL, LDH:183
   IU/L, Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: Cortsol: 20.1
   Hapto: 94
   Prolact: Pnd
   Assessment and Plan
   75 yo F w hx of Afib HTN, DM2 s/p recent hospitalization for
   osteomyelitis now presenting w/ acute unresponsiveness and apnea as
   well as acute hydrothorax s/p chest compressions.
   #. Hypotension:
   Has now been weened off pressors.  Most likely etiology was from fluid
   loss from chest tube.  Still continues to have brisk output, but may be
   mobilizing peripheral edema now.  2 units of PRBC with appropriate
   response, and oncotic pressure may also have helped.  No source of hct
   drop was identified.
   --will trend [**Hospital1 **] hct.
   -- continue to monitor chest tube output.
   .
   #Anemia:  As discussed, no clear source of bleeding.  Guaic negatvie.
   Responded appropriatly to 2units yesterday and has maintained level.
   Should still entertain potential RP bleed, but will hold off on imaging
   if hct remains stable.  Hemolysis labs unremrkable.
   - check [**Hospital1 **] hct.
   # Tachycardia:  Sinus tachycardia.  Less likely due to hypovolumia as
   now off pressors.  Raging between 110-140.  With hypoxia should
   consider PE, and may cta if refmains tachycardic.  No pain or signs of
   infection.  No great response to dig load.  Will consider metoprolol
   12.5mg [**Hospital1 **] today now that off pressors.
   #hypoxia:  successfully extubated [**11-14**], still with large o2
   requirment.  Likely due to compressive atelectasis w/ hydrothorax.
   Could potentially have VAP with increased sputum and hypoxia hidden in
   effusion.
   -switch ctx to cefepine for pseudomonas coverage, but will look to peel
   back if possible today.
   - send off sputum culture.
   #. Altered Mental Status:
   Given that pt. has been having multiple episodes of acute altered
   mental status and nonresponsiveness most likely represents seizures.
   Pt. is on trifluoperazine and amytriptiline which can lower the seizure
   threshold and may have accumulated after recent step down in her renal
   function and worsening of her likely NAFLD.
   - Lactulose
   - Appreciate neurology recs, recommended keppra if we felt strongly or
   can hold off until gets 24hr EEG.
   -  get continuous EEG
   - Hold psychotropic meds, but start haldol per psych for anxiety.
   #. Osteomyelitis:
   Patient has history of phlegmon in lower spine, being treated with Vanc
   and Flagyl since previous hospitalization, long term course. Ortho
   Spine aware of patient.
   -F/u ESR/CRP
   -F/u spine recs
   - continue vanc/flagyl
   #Hydrothorax: Most likely [**12-25**] small rupture of diaphragm causing
   leakage of ascites into chest cavity. If pt. continues to produce large
   amounts of ascites will need to diurese before chest tube comes out.
   Does not appear to be blood comming from chest tube and Hct stable.
   - Chest tube to suction
   - CXR in am.
   - CT chest to evaluate for degree of diaphragmatic perforation.  [**Month (only) 8**]
   need to get thorasics consult to address intervention if continues to
   have large output with associated hypotension.
   #. CHF:  extremely fluid overloaded.   TTE shows improved cardiac
   function.
   - continue diuresis when HD stable
   #. Renal failure: At recent baseline
   - trend Cr
   - Renally dose meds
   - avoid nephrotoxins
   #. Cirrhosis: Low MELD. Stable, noted on CT.  Could be cause of AMS
   - Lactulose
   - diuresis when stable
   - f/u hepatology labs
   - f/u hepatology recs, holding lasix/aldactone in setting of
   hypotension, will f/u w/ liver clinc
   #. DM:
   - continue insulin sliding scale
   #. Access:
   - PIV
   - PICC needs to be pulled back
   - central line
   #. PPx:
   - Pneumoboots given ? bleeding
   #. Code: FULL CODE
   #. Communication: patient not reliable. family.
   [**First Name8 (NamePattern2) 5880**] [**Last Name (NamePattern1) 2355**] (Daughter: [**Telephone/Fax (1) 10400**])
   [**Name (NI) **] [**Name (NI) **] (son): [**Telephone/Fax (1) 10401**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-11-13**] 06:21 PM
   Multi Lumen - [**2125-11-13**] 08:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-11-16 08:13:00 Physician Attending Progress Note
Chief Complaint: arrest vs. SZ, respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 75yoF with cirrhosis believed [**12-25**] NASH, vertebral osteo, s/p
   multiple recent admissions; readmitted to the ICU in setting of
   seizure-like activity and subsequent respiratory failure and
   hypotension
   24 Hour Events:
   Transfused 2 units RBCs for Hct of 23-24; post-transfusion Hct 29,
   guaiac neg, hemolysis labs sent
   Did not tolerate lying flat, so unable to get a CT
   Off pressors
   Continuous chest tube output
   Got haldol for agitation, slept through the night
   History obtained from Patient
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin 500 IV Q24 - [**2125-11-15**] 08:14 AM
   Cefipime 2gm Q24 - [**2125-11-15**] 03:49 PM
   Metronidazole - [**2125-11-15**] 09:00 PM
   Infusions: neo off x 12 hours
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-11-15**] 09:00 PM
   Other medications:
   Thiamine
   ASA
   Pantoprazole
   ISS
   Simvastatin
   Lidocaine patch
   Ferrous sulfate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-16**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 120 (108 - 143) bpm
   BP: 121/70(80) {100/53(65) - 142/78(90)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 96% on 4L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 14 (5 - 20)mmHg
   Total In:
                                                                  4,170 mL
                                                                    372 mL
   PO:
                                                                    760 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,343 mL
                                                                    132 mL
   Blood products:
                                                                  1,067 mL
   Total out:
                                                                  4,038 mL
                                                                  1,650 mL
   Urine:
                                                                    398 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                 -1,278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Gen: NAD, awake
   Chest: decreased breath sounds and rales L > R base
   CV: tachy, regular, no murmurs
   Abd: soft, obese, full flanks + BS
   Extr: warm, no edema
   Labs / Radiology
   9.5 g/dL
   113 K/uL
   115 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.1 mEq/L
   11 mg/dL
   108 mEq/L
   144 mEq/L
   29.6 %
   6.6 K/uL
        [image002.jpg]
                            [**2125-11-14**]  01:27 AM
                            [**2125-11-14**]  04:58 AM
                            [**2125-11-14**]  05:07 AM
                            [**2125-11-14**]  02:57 PM
                            [**2125-11-15**]  03:23 AM
                            [**2125-11-15**]  08:00 AM
                            [**2125-11-15**]  09:48 AM
                            [**2125-11-15**]  04:40 PM
                            [**2125-11-15**]  10:01 PM
                            [**2125-11-16**]  03:37 AM
   WBC
   11.9
   7.7
   8.6
   6.6
   Hct
   30.9
   24.2
   23.0
   24.4
   29.9
   28.6
   29.6
   Plt
   [**Telephone/Fax (3) 10681**]13
   Cr
   1.1
   1.0
   1.1
   1.0
   TropT
   0.05
   0.05
   TCO2
   30
   31
   Glucose
   154
   123
   157
   115
   Other labs: PT / PTT / INR:18.2/36.7/1.6, CK / CKMB /
   Troponin-T:32/2/0.05, ALT / AST:[**8-8**], Alk Phos / T Bili:91/1.1,
   Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:6.5 %, Eos:0.6 %,
   Fibrinogen:262 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:4.5 g/dL, LDH:183
   IU/L, Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.0 mg/dL
   AM cortisol: 20
   Prolactin: pending
   Micro:
   Sputum cx: NG
   Urine cx: yeast
   Imaging: no new today
   Assessment and Plan
   75yoF with multiple recent admissions; returns to ICU in setting of
   seizure-like activity and subsequent respiratory failure.
   1.       Respiratory failure:  Intubated in setting of respiratory
   distress possibly post-seizure activity.  Suspect etiology was
   accumulation of pleural effusion. Extubated [**11-14**], now weaning down on
   oxygen.  Still with significant CT output, likely [**12-25**]
   hepatohydrothorax.  ?macro trauma to diaphragm during CPR.  Broadened
   ABx for ?VAP yesterday.  Sputum cx negative.
   - Continue vanco + cefepime x 48 hours total, consider d/cing cefepime
   tomorrow if hemodynamically stable
   2.       Hypotension: had intermittent low-dose pressor requirement
   without clear etiology, now off x 12 hours.   [**Month/Day (2) **] with improved EF from
   prior.
   - check albumin today
   3.       Neuro:  Suspect intermittent seizure activity
   - continuous EEG: will attempt tomorrow
   - consider keppra for SZ prophylaxis
   4.       Pleural effusion:  transudate
 suspect hepatic hydrothorax
   versus CHF.  Almost 4 L of chest tube output.  ?macro-perforation of
   diaphragm during CPR.  Still with borderine BPs so unable to diurese.
   - Thoracic surgery consult for ?any operative intervention for
   diaphragm/hepatohydrothorax
   5.   Cirrhosis: attributed to NASH.  Liver service saw, recs for
   diuresis, lactulose, and outpt f/up.
   - will need to start aldactone/lasix when hemodynamics improved
   6. Tachycardia: ST vs. SVT yesterday, rates up to 140s, partial dig
   load, now rates in the 110s with borderline BPs but off pressors.
   Cardiac markers flat.
   - monitor
   7. ID:  h/o cdiff; osteo
   - continue vancomycin to complete course outlined by ID
   - continue flagyl in setting of recent cdiff infection
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2125-11-13**] 06:21 PM
   Multi Lumen - [**2125-11-13**] 08:38 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with patient, family updated yesterday
   Code status: Full code
   Disposition: ICU
   Total time spent:  35 min CCT

2125-11-17 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Unresponsive
   24 Hour Events:
   -- Thoracic surgery consult - Advise agressive diuresis, clamp tube
   when closer to baseline wt, unlikely diaphragmatic injury.
   -- Wants to try water seal and recheck  CXR 2 hours later
   -- Repeat Hct Stable 29 > 31 without further transfusion
   -- Consider d/c Cefepime tommorow given low suspicion VAP
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsDemerol (Oral)
   (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-11-14**] 06:28 PM
   Vancomycin - [**2125-11-16**] 09:23 AM
   Cefipime - [**2125-11-16**] 04:12 PM
   Metronidazole - [**2125-11-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-16**] 09:23 AM
   Haloperidol (Haldol) - [**2125-11-16**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-17**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 114 (109 - 126) bpm
   BP: 126/68(82) {113/49(68) - 150/80(93)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.4 kg (admission): 92.5 kg
   Height: 67 Inch
    CVP: 11 (10 - 18)mmHg
   Total In:
                                                                  1,540 mL
                                                                    435 mL
   PO:
                                                                    840 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    700 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  4,712 mL
                                                                  2,085 mL
   Urine:
                                                                    612 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,172 mL
                                                                 -1,650 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   153 K/uL
   10.2 g/dL
   209 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   32.1 %
   7.1 K/uL
        [image002.jpg]
                            [**2125-11-14**]  05:07 AM
                            [**2125-11-14**]  02:57 PM
                            [**2125-11-15**]  03:23 AM
                            [**2125-11-15**]  08:00 AM
                            [**2125-11-15**]  09:48 AM
                            [**2125-11-15**]  04:40 PM
                            [**2125-11-15**]  10:01 PM
                            [**2125-11-16**]  03:37 AM
                            [**2125-11-16**]  01:39 PM
                            [**2125-11-17**]  03:16 AM
   WBC
   7.7
   8.6
   6.6
   7.1
   Hct
   24.2
   23.0
   24.4
   29.9
   28.6
   29.6
   31.9
   32.1
   Plt
   150
   136
   113
   153
   Cr
   1.0
   1.1
   1.0
   0.9
   TropT
   0.05
   TCO2
   31
   Glucose
   123
   157
   115
   209
   Other labs: PT / PTT / INR:17.3/33.3/1.6, CK / CKMB /
   Troponin-T:32/2/0.05, ALT / AST:[**7-5**], Alk Phos / T Bili:101/0.8,
   Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:6.5 %, Eos:0.6 %,
   Fibrinogen:262 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:225
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR (my read): Stable to slightly improved
   Microbiology: [**2125-11-14**] 10:13 am SPUTUM      Source: Endotracheal.
                               **FINAL REPORT [**2125-11-16**]**
      GRAM STAIN (Final [**2125-11-14**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2125-11-16**]):    NO GROWTH.
   Time Taken Not Noted     Log-In Date/Time: [**2125-11-14**] 2:37 pm
         URINE     Site: NOT SPECIFIED      HEM# 615L.
                               **FINAL REPORT [**2125-11-15**]**
      URINE CULTURE (Final [**2125-11-15**]):
         YEAST.    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 TACHYCARDIA, OTHER
 ANXIETY
 HYPOTENSION (NOT SHOCK)
   75 yo F w hx of Afib HTN, DM2 s/p recent hospitalization for
   osteomyelitis now presenting w/ acute unresponsiveness and apnea as
   well as acute hydrothorax s/p chest compressions.
   #. Hypotension:
   Has now been weened off pressors.  Most likely etiology was from fluid
   loss from chest tube.  Still continues to have brisk output, but may be
   mobilizing peripheral edema now.  2 units of PRBC with appropriate
   response, and oncotic pressure may also have helped.  No source of hct
   drop was identified.
   --will trend [**Hospital1 **] hct.
   -- continue to monitor chest tube output.
   -- recheck albumin, and dose albumin if hypotensive
   #Anemia:  As discussed, no clear source of bleeding.  Guaic negatvie.
   Responded appropriatly to 2units yesterday and has maintained level.
   Should still entertain potential RP bleed, but will hold off on imaging
   if hct remains stable.  Hemolysis labs unremrkable.
   - check [**Hospital1 **] hct.
   # Tachycardia:  Sinus tachycardia.  Less likely due to hypovolumia as
   now off pressors.  Raging between 110-140.  With hypoxia should
   consider PE, and may cta if refmains tachycardic.  No pain or signs of
   infection.  No great response to dig load.
   #hypoxia:  successfully extubated [**11-14**], still with moderate o2
   requirment.  Likely due to compressive atelectasis w/ hydrothorax.
   Could potentially have VAP with increased sputum and hypoxia hidden in
   effusion.
   -Con
t cefepime for pseudomonas coverage, but will look to peel back if
   possible today.
   - send off sputum culture.
   #. Altered Mental Status:
   Given that pt. has been having multiple episodes of acute altered
   mental status and nonresponsiveness most likely represents seizures.
   Pt. is on trifluoperazine and amytriptiline which can lower the seizure
   threshold and may have accumulated after recent step down in her renal
   function and worsening of her likely NAFLD.
   - Appreciate neurology recs, recommended keppra if we felt strongly or
   can hold off until gets 24hr EEG.
   -  get continuous EEG
   - Hold psychotropic meds, but start haldol per psych for anxiety.
   #. Osteomyelitis:
   Patient has history of phlegmon in lower spine, being treated with Vanc
   and Flagyl since previous hospitalization, long term course. Ortho
   Spine aware of patient.
   -F/u ESR/CRP
   -F/u spine recs
   - continue vanc/flagyl
   #Hydrothorax: Most likely [**12-25**] small rupture of diaphragm causing
   leakage of ascites into chest cavity. If pt. continues to produce large
   amounts of ascites will need to diurese before chest tube comes out.
   Does not appear to be blood comming from chest tube and Hct stable.
   - Chest tube to suction
   - CXR in am.
   - Appreciate thoracics recs, will plan to water seal and re-eval at 2
   hours
   -Consider diuresis today to minimize CT ouput
   #. CHF:  extremely fluid overloaded.   TTE shows improved cardiac
   function.
   - continue diuresis when HD stable
   #. Renal failure: At recent baseline
   - trend Cr
   - Renally dose meds
   - avoid nephrotoxins
   #. Cirrhosis: Low MELD. Stable, noted on CT.  Could be cause of AMS
   - diuresis when stable
   - f/u hepatology labs
   - f/u hepatology recs, holding lasix/aldactone in setting of
   hypotension, will f/u w/ liver clinc
   #. DM:
   - continue insulin sliding scale
   #. Access:
   - PIV
   - PICC
   - central line
   #. PPx:
   HSC and Pneumoboots
   #. Code: FULL CODE
   #. Communication: patient not reliable. family.
   [**First Name8 (NamePattern2) 5880**] [**Last Name (NamePattern1) 2355**] (Daughter: [**Telephone/Fax (1) 10400**])
   [**Name (NI) **] [**Name (NI) **] (son): [**Telephone/Fax (1) 10401**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-11-13**] 06:21 PM
   Multi Lumen - [**2125-11-13**] 08:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-11-17 08:16:00 Physician Attending Progress Note
Chief Complaint: s/p arrest, hepatohydrothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  75yoF with cirrhosis believed [**12-25**] NASH, vertebral osteo, s/p
   multiple recent admissions; readmitted to the ICU in setting of
   seizure-like activity and subsequent respiratory failure and
   hypotension
   24 Hour Events:
   Seen by Thoracic Surgery for high CT output, recs = diuresis, CT to H20
   suction, repeat CXR, no operative options
   Received another dose of Haldol yesterday, slept well through the night
   History obtained from Patient
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-11-14**] 06:28 PM
   Vancomycin - [**2125-11-16**] 09:23 AM
   Cefipime - [**2125-11-16**] 04:12 PM
   Metronidazole - [**2125-11-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-11-16**] 09:00 PM
   Pantoprazole (Protonix) - [**2125-11-17**] 08:03 AM
   Other medications:
   Thiamine
   ASA
   Pantoprazole
   ISS
   Simvastatin
   Lidocaine patch
   Iron
   Vanco
   Flagyl
   Heparin SC
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
I feel great
, no cough/SOB/pain
   Flowsheet Data as of  [**2125-11-17**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 114 (109 - 126) bpm
   BP: 126/68(82) {118/49(69) - 150/80(93)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.4 kg (admission): 92.5 kg
   Height: 67 Inch
   CVP: 11 (10 - 18)mmHg
   Total In:
                                                                  1,540 mL
                                                                    469 mL
   PO:
                                                                    840 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  4,712 mL
                                                                  2,085 mL
   Urine:
                                                                    612 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,172 mL
                                                                 -1,616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: NAD, sitting up in bed
   Chest: decreased breath sounds [**12-26**] way up L side and R base
   CV: tachy, regular, no murmurs
   Abd: soft, + dull flanks
   Extr: warm, 2+ pitting LE edema
   Labs / Radiology
   10.2 g/dL
   153 K/uL
   209 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   32.1 %
   7.1 K/uL
        [image002.jpg]
                            [**2125-11-14**]  05:07 AM
                            [**2125-11-14**]  02:57 PM
                            [**2125-11-15**]  03:23 AM
                            [**2125-11-15**]  08:00 AM
                            [**2125-11-15**]  09:48 AM
                            [**2125-11-15**]  04:40 PM
                            [**2125-11-15**]  10:01 PM
                            [**2125-11-16**]  03:37 AM
                            [**2125-11-16**]  01:39 PM
                            [**2125-11-17**]  03:16 AM
   WBC
   7.7
   8.6
   6.6
   7.1
   Hct
   24.2
   23.0
   24.4
   29.9
   28.6
   29.6
   31.9
   32.1
   Plt
   150
   136
   113
   153
   Cr
   1.0
   1.1
   1.0
   0.9
   TropT
   0.05
   TCO2
   31
   Glucose
   123
   157
   115
   209
   Other labs: PT / PTT / INR:17.3/33.3/1.6, CK / CKMB /
   Troponin-T:32/2/0.05, ALT / AST:[**7-5**], Alk Phos / T Bili:101/0.8,
   Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:6.5 %, Eos:0.6 %,
   Fibrinogen:262 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:225
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Micro:
   Urine [**11-14**]: yeast
   Sputum [**11-14**]: NG
   CXR: (my read): stable moderate L pleural effusion, CT in place
   Assessment and Plan
   75yoF with multiple recent admissions; returns to ICU in setting of
   seizure-like activity and subsequent respiratory failure.
   1.       Respiratory failure:  Intubated in setting of respiratory
   distress possibly post-seizure activity.  Suspect etiology was
   accumulation of pleural effusion. Extubated [**11-14**], now weaning down on
   oxygen.  Still with significant CT output, likely [**12-25**]
   hepatohydrothorax.  ?macro trauma to diaphragm during CPR.  Broadened
   ABx for ?VAP 2 days ag0.  Sputum cx negative.  Now hemodynamically
   stable with no fevers and neg cultures x 48 hours.
   - d/c cefepime, continue vanco for osteo
   2.       Hypotension: had intermittent low-dose pressor requirement
   without clear etiology, now off pressors x 2 days.   TTE with improved
   EF from prior.  Albumin still > 3, although trending down s/p SPA.
   - monitor albumin daily and consider transfusing if hypotensive again
   3.       Neuro:  Suspect intermittent seizure activity
   - continuous EEG today
   - consider keppra for SZ prophylaxis based on EEC results
   4.       Pleural effusion:  transudate
 suspect hepatic hydrothorax
   versus CHF.  Almost 4 L of chest tube output.  ?macro-perforation of
   diaphragm during CPR.  Thoracics saw yesterday, recommend diuresis and
   then CT to water seal.
   - start lasix gtt today with goal neg 500 ccs to 1L
   - attempt CT to water seal, then repeat CXR
   5.   Cirrhosis: attributed to NASH.  Liver service saw, recs for
   diuresis, lactulose, and outpt f/up.
   - starting lasix gtt today, plan to add aldactone if BPs tolerate
   6. Tachycardia: ST vs. SVT yesterday, rates up to 140s, partial dig
   load, now rates in the 110s improved BPs.  Cardiac markers flat. ?[**12-25**]
   large volume shifts given high CT output vs. BBL withdrawal.
   - starting to diurese today
   - once tolerating diuresis, will restart BBL slowly
   7. ID:  h/o cdiff; osteo
   - continue vancomycin to complete prior course outlined by ID
   ([**2125-12-16**])
   - continue flagyl in setting of recent cdiff infection (to end 5 days p
   vanco)
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2125-11-13**] 06:21 PM
   Multi Lumen - [**2125-11-13**] 08:38 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI (changing to PO)
   Communication: with patient, will update family
   Code status: Full code
   Disposition: ICU
   Total time spent:  35 min CCT

2125-11-18 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Placed CT to water seal, recheck CXR in am.
   Started on lasix gtt, uptitrated to 10mg/hour with good output and
   stable BP.
   Started 24hr EEG.
   D/c'd cefepine
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2125-11-16**] 04:12 PM
   Metronidazole - [**2125-11-17**] 12:00 AM
   Vancomycin - [**2125-11-17**] 09:31 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-17**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2125-11-17**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-18**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 125 (105 - 125) bpm
   BP: 119/36(59) {90/33(50) - 132/82(87)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.4 kg (admission): 92.5 kg
   Height: 67 Inch
    CVP: 3 (3 - 14)mmHg
   Total In:
                                                                  1,698 mL
                                                                    137 mL
   PO:
                                                                  1,040 mL
   TF:
   IVF:
                                                                    658 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  5,880 mL
                                                                  1,840 mL
   Urine:
                                                                  2,200 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,182 mL
                                                                 -1,703 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   178 K/uL
   10.9 g/dL
   138 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   103 mEq/L
   141 mEq/L
   34.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2125-11-14**]  02:57 PM
                            [**2125-11-15**]  03:23 AM
                            [**2125-11-15**]  08:00 AM
                            [**2125-11-15**]  09:48 AM
                            [**2125-11-15**]  04:40 PM
                            [**2125-11-15**]  10:01 PM
                            [**2125-11-16**]  03:37 AM
                            [**2125-11-16**]  01:39 PM
                            [**2125-11-17**]  03:16 AM
                            [**2125-11-18**]  04:26 AM
   WBC
   7.7
   8.6
   6.6
   7.1
   6.9
   Hct
   24.2
   23.0
   24.4
   29.9
   28.6
   29.6
   31.9
   32.1
   34.3
   Plt
   150
   136
   113
   153
   178
   Cr
   1.0
   1.1
   1.0
   0.9
   1.0
   TropT
   0.05
   Glucose
   123
   157
   115
   209
   138
   Other labs: PT / PTT / INR:16.6/32.8/1.5, CK / CKMB /
   Troponin-T:32/2/0.05, ALT / AST:[**9-6**], Alk Phos / T Bili:112/0.9,
   Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:6.5 %, Eos:0.6 %,
   Fibrinogen:262 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:225
   IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   75 yo F w hx of Afib HTN, DM2 s/p recent hospitalization for
   osteomyelitis now presenting w/ acute unresponsiveness and apnea as
   well as acute hydrothorax s/p chest compressions.
   #. Hypotension:
   Has now been weened off pressors.  Most likely etiology was from fluid
   loss from chest tube.  Still continues to have brisk output, but may be
   mobilizing peripheral edema now.  2 units of PRBC with appropriate
   response, and oncotic pressure may also have helped.  No source of hct
   drop was identified.
   --will trend [**Hospital1 **] hct.
   -- continue to monitor chest tube output.
   -- recheck albumin, and dose albumin if hypotensive
   #Anemia:  As discussed, no clear source of bleeding.  Guaic negatvie.
   Responded appropriatly to 2units yesterday and has maintained level.
   Should still entertain potential RP bleed, but will hold off on imaging
   if hct remains stable.  Hemolysis labs unremrkable.
   - check [**Hospital1 **] hct.
   # Tachycardia:  Sinus tachycardia.  Less likely due to hypovolumia as
   now off pressors.  Raging between 110-140.  With hypoxia should
   consider PE, and may cta if refmains tachycardic.  No pain or signs of
   infection.  No great response to dig load.
   #hypoxia:  successfully extubated [**11-14**], still with moderate o2
   requirment.  Likely due to compressive atelectasis w/ hydrothorax.
   Could potentially have VAP with increased sputum and hypoxia hidden in
   effusion.
   -d/c cefepime today given negative cx at 48 hours
   - send off sputum culture.
   #. Altered Mental Status:
   Given that pt. has been having multiple episodes of acute altered
   mental status and nonresponsiveness most likely represents seizures.
   Pt. is on trifluoperazine and amytriptiline which can lower the seizure
   threshold and may have accumulated after recent step down in her renal
   function and worsening of her likely NAFLD.
   - Appreciate neurology recs, recommended keppra if we felt strongly or
   can hold off until gets 24hr EEG.
   -  get continuous EEG
   - Hold psychotropic meds, but start haldol per psych for anxiety.
   #. Osteomyelitis:
   Patient has history of phlegmon in lower spine, being treated with Vanc
   and Flagyl since previous hospitalization, long term course. Ortho
   Spine aware of patient.
   -F/u ESR/CRP
   -F/u spine recs
   - continue vanc/flagyl
   #Hydrothorax: Most likely [**12-25**] small rupture of diaphragm causing
   leakage of ascites into chest cavity. If pt. continues to produce large
   amounts of ascites will need to diurese before chest tube comes out.
   Does not appear to be blood comming from chest tube and Hct stable.
   - Chest tube to water seal today
   - CXR in am.
   - Appreciate thoracics recs, will plan to water seal and re-eval in am
   -Consider diuresis today to minimize CT ouput
   -Will resuscitate with albumin if hypotensive
   #. CHF:  extremely fluid overloaded.   TTE shows improved cardiac
   function.
   - Diurese with lasix gtt today
   #. Renal failure: At recent baseline
   - trend Cr
   - Renally dose meds
   - avoid nephrotoxins
   #. Cirrhosis: Low MELD. Stable, noted on CT.  Could be cause of AMS
   - diuresis today
   - f/u hepatology labs
   - f/u hepatology recs, will f/u w/ liver clinc
   #. DM:
   - continue insulin sliding scale
   #. Access:
   - PIV
   - PICC
   - central line
   #. PPx:
   HSC and Pneumoboots
   #. Code: FULL CODE
   #. Communication: patient not reliable. family.
   [**First Name8 (NamePattern2) 5880**] [**Last Name (NamePattern1) 2355**] (Daughter: [**Telephone/Fax (1) 10400**])
   [**Name (NI) **] [**Name (NI) **] (son): [**Telephone/Fax (1) 10401**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-11-13**] 06:21 PM
   Multi Lumen - [**2125-11-13**] 08:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-11-18 10:17:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tolerated waterseal on CT. On lasix drip. Getting continuous EEG.
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2125-11-16**] 04:12 PM
   Metronidazole - [**2125-11-17**] 12:00 AM
   Vancomycin - [**2125-11-17**] 09:31 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-11-18**] 08:45 AM
   Other medications:
   thiamine iv, asa 325, RISS, vanco 500 q24, simvastatin, lidocaine,
   flagyl, iron, heparin s/c, pantoprazole po,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-18**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 117 (105 - 125) bpm
   BP: 103/62(73) {90/33(50) - 132/82(87)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.4 kg (admission): 92.5 kg
   Height: 67 Inch
   CVP: 3 (3 - 14)mmHg
   Total In:
                                                                  1,698 mL
                                                                    418 mL
   PO:
                                                                  1,040 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    658 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  5,880 mL
                                                                  2,020 mL
   Urine:
                                                                  2,200 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,182 mL
                                                                 -1,602 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 2L
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   mid lung fields, Bronchial: at the bases, Diminished: at the bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   178 K/uL
   138 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   103 mEq/L
   141 mEq/L
   34.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2125-11-14**]  02:57 PM
                            [**2125-11-15**]  03:23 AM
                            [**2125-11-15**]  08:00 AM
                            [**2125-11-15**]  09:48 AM
                            [**2125-11-15**]  04:40 PM
                            [**2125-11-15**]  10:01 PM
                            [**2125-11-16**]  03:37 AM
                            [**2125-11-16**]  01:39 PM
                            [**2125-11-17**]  03:16 AM
                            [**2125-11-18**]  04:26 AM
   WBC
   7.7
   8.6
   6.6
   7.1
   6.9
   Hct
   24.2
   23.0
   24.4
   29.9
   28.6
   29.6
   31.9
   32.1
   34.3
   Plt
   150
   136
   113
   153
   178
   Cr
   1.0
   1.1
   1.0
   0.9
   1.0
   TropT
   0.05
   Glucose
   123
   157
   115
   209
   138
   Other labs: PT / PTT / INR:16.6/32.8/1.5, CK / CKMB /
   Troponin-T:32/2/0.05, ALT / AST:[**9-6**], Alk Phos / T Bili:112/0.9,
   Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:6.5 %, Eos:0.6 %,
   Fibrinogen:262 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:225
   IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER: continue to monitor, sinus. TTE shows improved
   EF.
 ANXIETY: continue to reassure.
 Volume overload: continue lasix, change to bolus lasix to reduce
   nursing requirment if necessary
Chest tube: continues with high drainage, will continue waterseal
 ? sz: f/u EEG
Osteo: continue vanco
hx c.diff: continue flagyl
Cirrhoisis: likely NASH
DM: continue insulin, glucose in good range
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2125-11-13**] 06:21 PM
   Multi Lumen - [**2125-11-13**] 08:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree w/Dr. [**First Name (STitle) 9018**]
s note
   as outlined above, including assessment and plan. 75 yo female with
   NASH/cirrhosis, possible recent seizures, with recent acute respiratory
   failure during which she was intubated and had a CT placed. Extubated
   several days ago, remains with high CT output. On lasix gtt, tolerating
   CT to waterseal. Plan for thoracics to remove CT and see how she does-
   if reaccumulates, may need a smaller bore CT placed. Planning for floor
   transfer once bed available.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2125-11-18**] 14:33 ------